US06118001
1-Benzoyl-4-bromopiperidine
Benzoyl chloride (1.41 g) was added to a solution of 4-bromopiperidine hydrobromide (2.45 g) in THF (30 ml) at 0° C., followed by triethylamine (2.2 g, 2.2 eq). The solution was stirred at room temperature for 1 h, and evaporated and. The residue was dissolved in dichloromethane (100 ml), washed with water, 1M HCl and saturated sodium bicarbonate, dried and evaporated to give the title compound as colourless oil (2.76 g, 100%).

reactant | Benzoyl chloride | 1.41 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-bromopiperidine hydrobromide | 2.45 g | Br.BrC1CCNCC1
reactant | triethylamine | 2.2 g, 2.2 eq | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-Benzoyl-4-bromopiperidine | 2.76 g, 100% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)Br | C12H14BrNO
